US07410981B2
(−)-Ethyl 2-[[[5-methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulfinyl]-3H-imidazo[4,5-b]pyridin-3-yl]carbonyl](methyl)amino]ethyl carbonate
5-Methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulfinyl]-1H-imidazo[4,5-b]pyridine synthesized according to the method described in JP-A-63-146882 was subjected to preparative HPLC for optical resolution to give a (−) enantiomeric form (0.10 g) thereof. To a solution (5 mL) of this form in tetrahydrofuran were added 2-[(chlorocarbonyl) (methyl)amino]ethyl ethyl carbonate (0.081 g) obtained in Reference Example 34, triethylamine (0.080 mL) and 4-dimethylaminopyridine (0.007 g) and the mixture was stirred at 50° C. for 18 hrs. After concentration under reduced pressure, water (30 mL) was added to the residue and the mixture was extracted with ethyl acetate (50 mL). The ethyl acetate layer was washed with saturated brine (30 mL) and dried over anhydrous sodium sulfate. After concentration under reduced pressure, the residue was purified by basic silica gel column chromatography (eluted with ethyl acetate:hexane=2:1) to give the title compound (0.053 g) as a colorless oil.

reactant | 5-Methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulfinyl]-1H-imidazo[4,5-b]pyridine | COC1=CC=C2C(=N1)N=C(N2)S(=O)CC2=NC=C(C(=C2C)OC)C | C16H18N4O3S
reactant | 2-[(chlorocarbonyl) (methyl)amino]ethyl ethyl carbonate | 0.081 g | C(OCCN(C)C(=O)Cl)(OCC)=O | C7H12ClNO4
reactant | triethylamine | 0.080 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.007 g | CN(C1=CC=NC=C1)C | C7H10N2
product | (−)-Ethyl 2-[[[5-methoxy-2-[[(4-methoxy-3,5-dimethyl-2-pyridyl)methyl]sulfinyl]-3H-imidazo[4,5-b]pyridin-3-yl]carbonyl](methyl)amino]ethyl carbonate | 0.053 g | C(OCC)(OCCN(C)C(=O)N1C(=NC=2C1=NC(=CC2)OC)S(=O)CC2=NC=C(C(=C2C)OC)C)=O | C23H29N5O7S
